US07863293B2
Using General Procedure A: Reaction of (S)-(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine, 4-bromomethyl-isophthalic acid dimethyl ester (Egbertson, M. S. et al. Bioorg. Med. Chem. Lett. 1996, 6, 2519-2524), DIPEA and KI in CH3CN gave 4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-isophthalic acid dimethyl ester as a tan oily foam. 1H NMR (CDCl3) δ 1.64 (m, 1H), 2.01 (m, 2H), 2.14 (s+m, 4H), 2.27 (s, 3H), 2.68 (m, 1H), 2.79 (m, 1H), 3.89 (s, 6H), 3.92 (s, 2H), 4.09 (t, 1H, J=6.0 Hz), 4.26 (m, 2H), 6.97 (s, 1H), 7.03 (m, 1H), 7.30 (d, 1H, J=9.0 Hz), 7.89 (dd, 2H, J=7.5, 4.5 Hz), 8.02 (s, 1H), 8.25 (s, 1H), 8.50 (d, 1H, J=3.0 Hz). 13C NMR (CDCl3) δ 18.1, 18.7, 22.2, 26.8, 29.7, 52.5, 54.7, 57.1, 63.3, 121.9, 128.0, 130.7, 131.4, 131.9, 133.3, 134.5, 136.7, 138.8, 146.3, 148.5, 166.8, 168.1. HPLC: 96%. ES-MS m/z 474 [M+H]+, 496 [M+Na]+. Anal. Calcd. for C28H31N3O4.1.1H2O: C, 68.30; H, 6.59; N, 8.53. Found: C, 68.23; H, 6.41; N, 8.60.

reactant | (S)-(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | CC=1C(=NC=C(C1)C)CN[C@H]1CCCC=2C=CC=NC12 | C17H21N3
reactant | 4-bromomethyl-isophthalic acid dimethyl ester | COC(C1=CC(C(=O)OC)=C(C=C1)CBr)=O | C11H11BrO4
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-isophthalic acid dimethyl ester | COC(C1=CC(C(=O)OC)=C(C=C1)CN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C)=O | C28H31N3O4
